US04065473
Preparation of 2,3,4,5-Tetrahydro-7,8-methylenedioxy-1H-3-benzazepine
119 g. (0.595 moles) of 4,5-methylenedioxy-1,2-benzenediacetonitrile was hydrogenated in 2.4 l. of ammonia-saturated ethanol at an initial pressure of 1,000 PSI and 100° C in the presence of 24 g of Raney nickel for 4 to 5 hours. The cooled autoclave contents were filtered to remove the nickel, the catalyst washed with 500 ml of hot ethanol, and the filtrate distilled at reduced pressure, leaving 120 g of dark gray oil. This oil was distilled in vacuo using a Claisen still head and several fractions were collected. The low boiling fractions contained the desired produ ct which upon purification yielded the above-named product, m.p. 82°-84°.

reactant | 4,5-methylenedioxy-1,2-benzenediacetonitrile | 0.595 moles | C1OC=2C=C(C(=CC2O1)CC#N)CC#N | C11H8N2O2
reactant | ammonia | N | H3N
catalyst | Raney nickel | 24 g | [Ni] | Ni
product | 2,3,4,5-Tetrahydro-7,8-methylenedioxy-1H-3-benzazepine | 120 g | C1OC2=CC3=C(CCNCC3)C=C2O1 | C11H13NO2
